US07345057B2
A solution of 5 N hydrochloric acid in ether (5 ml) was added to a solution of 4-(6,7-Dimethoxy-3,4-dihydro-1H-isoquinoline-2-carbonyl)-piperidine-1-carboxylic acid tert-butyl ester (3 g, 7.43 mmol) in ethyl acetate and the mixture was stirred for 2 hours at room temperature. The precipitate formed was collected by filtration and the white solid obtained was indetified as (6,7-dimethoxy-3,4-dihydroisoquinolin-2(1H)-yl)(piperidin-4-yl)-methanone (2.1 g, 95% yield).

reactant | hydrochloric acid | 5 N | Cl | ClH
reactant | 4-(6,7-Dimethoxy-3,4-dihydro-1H-isoquinoline-2-carbonyl)-piperidine-1-carboxylic acid tert-butyl ester | 7.43 mmol, 3 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)N1CC2=CC(=C(C=C2CC1)OC)OC | C22H32N2O5
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (6,7-dimethoxy-3,4-dihydroisoquinolin-2(1H)-yl)(piperidin-4-yl)-methanone | 2.1 g, 95% yield | COC=1C=C2CCN(CC2=CC1OC)C(=O)C1CCNCC1 | C17H24N2O3
